US08030438B2
(11) Synthesis of 4,3′-bis(diethoxyphosphoryl)-5′-iodo-[2,2′]-bithiophene
In a mixed solvent of chloroform and acetic acid at 1:1, 0.0877 g (0.2 mmols) of 4,3′-bis(diethoxyphosphoryl)-[2,2′]-bithiophene was dissolved, to which 0.2250 g (1.0 mmol) of commercially available N-iodosuccinimide was added at room temperature. Thereafter, the reaction mixture was stirred at room temperature for 8 hours. After the reaction, a sodium thiosulfate aqueous solution was added, followed by extraction with chloroform. The organic phase was washed with a 0.2 N sodium hydroxide aqueous solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a PTLC plate (developed with ethyl acetate:hexane=2:1) to obtain the specified substance in the form of a yellow solid at a yield of 0.0880 g (yield: 78%). The thus obtained product was used as it is for reaction in Example 12(12).

reactant | 4,3′-bis(diethoxyphosphoryl)-[2,2′]-bithiophene | 0.2 mmols, 0.0877 g | C(C)OP(=O)(OCC)C=1C=C(SC1)C=1SC=CC1P(=O)(OCC)OCC | C16H24O6P2S2
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,3′-bis(diethoxyphosphoryl)-5′-iodo-[2,2′]-bithiophene | yield: 78% | C(C)OP(=O)(OCC)C=1C=C(SC1)C=1SC(=CC1P(=O)(OCC)OCC)I | C16H23IO6P2S2
